US07622469B2
2,4-Diamino-1,6-dihydro-6-nonyl-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 5.2 g (33.3 mmol) of 1-decanal and 0.9 ml of concentrated hydrochloric acid were added to 6.0 g (22.2 mmol) of N1-(4-tert-butylphenyl)-biguanide hydrochloride, and the mixture was refluxed for 7 hours. The solvent was concentrated under reduced pressure, and the residue was cooled. The resulting precipitated crystals were filtered, and recrystallized from 80% aqueous ethanol to obtain 3.1 g of colorless crystals having a melting point of 238 to 240° C.

reactant | 1-decanal | 33.3 mmol, 5.2 g | C(CCCCCCCCC)=O | C10H20O
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
reactant | N1-(4-tert-butylphenyl)-biguanide hydrochloride | 22.2 mmol, 6.0 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-6-nonyl-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride | 3.1 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCCCC)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C22H37N5.ClH/c1-5-6-7-8-9-10-11-12-19-25-20(23)26-21(24)27(19)18-15-13-17(14-16-18)22(2,3)4;/h13-16,19H,5-12H2,1-4H3,(H4,23,24,25,26);1H
